US08003785B2
A solution of 0.0447 g (0.0712 mmole) 4-[4-(9-cyclopentyl-7,7-difluoro-5-methyl-6-oxo-6,7,8,9-tetrahydro-5H-pyrimido[4,5-b][1,4]diazepin-2-ylamino)-3-ethyl-benzoylamino]-piperidine-1-carboxylic acid tert-butyl ester (I-201) in 4 mL of dichloromethane was stirred with 2 mL of trifluoroacetic acid for 2 hours and concentrated under reduced pressure. The residue was dissolved in 80 mL of dichloromethane, washed with 15 mL of sodium carbonate solution, twice with 15 mL of brine and concentrated under reduced pressure. The residue was purified by reverse phase silica gel chromatography, eluting with water-acetonitrile (gradient, 90:10-0:100) to give 0.00269 g of 4-(9-cyclopentyl-7,7-difluoro-5-methyl-6-oxo-6,7,8,9-tetrahydro-5H-pyrimido[4,5-b][1,4]diazepin-2-ylamino)-3-ethyl-N-piperidin-4-yl-benzamide (I-202) as a white solid.

reactant | 4-[4-(9-cyclopentyl-7,7-difluoro-5-methyl-6-oxo-6,7,8,9-tetrahydro-5H-pyrimido[4,5-b][1,4]diazepin-2-ylamino)-3-ethyl-benzoylamino]-piperidine-1-carboxylic acid tert-butyl ester | 0.0712 mmole, 0.0447 g | C(C)(C)(C)OC(=O)N1CCC(CC1)NC(C1=CC(=C(C=C1)NC=1N=CC2=C(N(CC(C(N2C)=O)(F)F)C2CCCC2)N1)CC)=O | C32H43F2N7O4
reactant | trifluoroacetic acid | 2 mL | FC(C(=O)O)(F)F | C2HF3O2
solvent | dichloromethane | 4 mL | ClCCl | CH2Cl2
product | 4-(9-cyclopentyl-7,7-difluoro-5-methyl-6-oxo-6,7,8,9-tetrahydro-5H-pyrimido[4,5-b][1,4]diazepin-2-ylamino)-3-ethyl-N-piperidin-4-yl-benzamide | 0.00269 g | C1(CCCC1)N1C2=C(N(C(C(C1)(F)F)=O)C)C=NC(=N2)NC2=C(C=C(C(=O)NC1CCNCC1)C=C2)CC | C27H35F2N7O2
